US04973425
The ethyl 4-hydroxyphenylacetate (59 g) and sodium ethoxide (22.4 g) are dissolved in ethanol (150 ml) and thereto is added n-octyl bromide (63.5 g), and the mixture is refluxed for 3 hours and concentrated under reduced pressure, and thereto is added ethyl acetate to dissolve the oily substance. The mixture is washed with water, dried over anhydrous magnesium sulfate, distilled under reduced pressure to remove ethyl acetate, and further distilled under reduced pressure to give ethyl 4-n-octyloxyphenylacetate (79.6 g, b.p. 179° C./0.1 mmHg).

reactant | ethyl 4-hydroxyphenylacetate | 59 g | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | sodium ethoxide | 22.4 g | [O-]CC.[Na+]
reactant | n-octyl bromide | 63.5 g | C(CCCCCCC)Br | C8H17Br
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 4-n-octyloxyphenylacetate | 79.6 g | C(CCCCCCC)OC1=CC=C(C=C1)CC(=O)OCC | C18H28O3
